US07612060B2
Step (ii): Synthesis of (R)-methyl 4-(1-azidoethyl)benzoate (31)
A solution of (S)-methyl 4-(1-hydroxyethyl)benzoate (24.8 g, 138 mmol) in toluene (300 mL) was cooled in ice-salt bath (bath temp: −10° C.). DPPA (36.3 mL, 168 mmol) was then added dropwise over 15 min (Bath temp was kept at −10° C. during addition). After 5 min, DBU (25.3 mL, 169 mmol) was added over 8 min. The ice in the bath was allowed to melt and the reaction mixture was stirred overnight at RT. The reaction mixture was diluted with EtOAc (200 mL), and washed with 0.1 N HCl aq. (300 mL). The aqueous layer was extracted with EtOAc (100 mL×2) and the combined organic phase was further washed with 0.1N HCl aq. (300 mL×2), 5% NaHCO3 (300 mL×2), and saturated NaCl (300 mL×2). The organic layers was dried over Na2SO4 and concentrated under reduced pressure. The crude product was chromatographed on SiO2 (ISCO: hexane/CH2Cl2=3/1→3/7) to yield the title compound. MS (m/z): 206.2 (m+H).

reactant | (S)-methyl 4-(1-hydroxyethyl)benzoate | 138 mmol, 24.8 g | O[C@@H](C)C1=CC=C(C(=O)OC)C=C1 | C10H12O3
reactant | DPPA | 168 mmol, 36.3 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 169 mmol, 25.3 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (R)-methyl 4-(1-azidoethyl)benzoate | N(=[N+]=[N-])[C@H](C)C1=CC=C(C(=O)OC)C=C1 | C10H11N3O2
